US08034812B2
Production of N-(2-fluoro-5-{[2-(isobutyrylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide
Using N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride (200 mg, 0.48 mmol), 2-methylpropanoyl chloride (53 mg, 0.50 mmol) and N,N-dimethylacetamide (5.0 mL), and by a reaction in the same manner as in Example 148, the title compound (98 mg, 45%) was obtained as pale-blue crystals.

reactant | N-{5-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]-2-fluorophenyl}-1,3-dimethyl-1H-pyrazole-5-carboxamide hydrochloride | 0.48 mmol, 200 mg | Cl.NC=1N=C2N(N=C(C=C2)OC=2C=CC(=C(C2)NC(=O)C2=CC(=NN2C)C)F)C1
reactant | 2-methylpropanoyl chloride | 0.50 mmol, 53 mg | CC(C(=O)Cl)C | C4H7ClO
solvent | N,N-dimethylacetamide | 5.0 mL | CN(C(C)=O)C | C4H9NO
product | N-(2-fluoro-5-{[2-(isobutyrylamino)imidazo[1,2-b]pyridazin-6-yl]oxy}phenyl)-1,3-dimethyl-1H-pyrazole-5-carboxamide | 98 mg, 45% | FC1=C(C=C(C=C1)OC=1C=CC=2N(N1)C=C(N2)NC(C(C)C)=O)NC(=O)C2=CC(=NN2C)C | C22H22FN7O3
